US04515626
Production of N-(4-cyclopropyl-6-methoxy-1,3,5-triazin-2-yl)-N'-(2-difluoromethoxybenzenesulfonyl)urea
3.75 g of 2-difluoromethoxybenzenesulfonylisocyanate are added to a solution of 2.5 g of 2-amino-4-cyclopropyl-6-methoxy-1,3,5-triazine in 15 ml of methylene chloride, and the mixture is stirred for 70 hours at room temperature. It is then concentrated by evaporation, and 25 ml of ether are added to the residue. A crystalline precipitate occurs, which is filtered off. The yield is 4.7 g of the above urea, which melts at 121°-124° C.

reactant | 2-difluoromethoxybenzenesulfonylisocyanate | 3.75 g | FC(OC1=C(C=CC=C1)S(=O)(=O)N=C=O)F | C8H5F2NO4S
reactant | 2-amino-4-cyclopropyl-6-methoxy-1,3,5-triazine | 2.5 g | NC1=NC(=NC(=N1)C1CC1)OC | C7H10N4O
solvent | methylene chloride | 15 ml | C(Cl)Cl | CH2Cl2
product | N-(4-cyclopropyl-6-methoxy-1,3,5-triazin-2-yl)-N'-(2-difluoromethoxybenzenesulfonyl)urea | C1(CC1)C1=NC(=NC(=N1)OC)NC(=O)NS(=O)(=O)C1=C(C=CC=C1)OC(F)F | C15H15F2N5O5S
